US08071593B2
Preparation of 1-(1-bromoethyl)-3-nitrobenzene
26.15 g (156 mmol) of 1-(3-nitrophenyl)ethanol are dissolved in 130 ml of glacial acetic acid, and 55 ml (313 mmol) of 33% HBr in glacial acetic acid are added dropwise with ice cooling. The reaction mixture is stirred at room temperature for 5 days. The mixture is subsequently diluted with 300 ml of DCM, washed with 3×200 ml of H2O and 200 ml of saturated NaHCO3 solution, dried over sodium sulfate and evaporated to dryness, and the residue is crystallised from petroleum ether.

reactant | 1-(3-nitrophenyl)ethanol | 156 mmol, 26.15 g | [N+](=O)([O-])C=1C=C(C=CC1)C(C)O | C8H9NO3
reactant | HBr | 313 mmol, 55 ml | Br | BrH
solvent | acetic acid | 130 ml | C(C)(=O)O | C2H4O2
solvent | DCM | 300 ml | C(Cl)Cl | CH2Cl2
product | 1-(1-bromoethyl)-3-nitrobenzene | BrC(C)C1=CC(=CC=C1)[N+](=O)[O-] | C8H8BrNO2
